US06255333B1
5-Amino-3-cyano-1-(2.6-dichloro-4-trifluoromethylphenyl)4-(prop-1-ynyl)pyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodopyrazole (0.904 g, the compound of Example A1) in dimethylformamide(2 ml) and triethylamine (10 ml) contained in a stainless steel bomb was added cuprous iodide (60 mg) and bis(triphenylphosphine)palladium(II) chloride (120 mg). The reaction vessel was cooled to −78° C. and propyne (2 g) condensed into it. The vessel was sealed and then heated at 70° C. for 18 hours and then left at room temperature for 2 days. The reaction mixture was partitioned between ether and water. The organic layer was separated, washed with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane : hexane (1:1) to provide the title compound as a white solid m.p. 226-8° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | propyne | 2 g | C#CC | C3H4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 120 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-1-(2.6-dichloro-4-trifluoromethylphenyl)4-(prop-1-ynyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#CC | C14H7Cl2F3N4
